US08865698B2
(R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)pyrimidine-2-carboxamide
To a mixture of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 25 mg, 0.079 mmol), pyrimidine-2-carboxylic acid (12 mg, 0.095 mmol), and HATU (36 mg, 0.095 mmol) was added 0.6 mL DMF. A few drops of DMSO were added to obtain a solution. After cooling in an ice bath for 10 minutes, DIEA (0.041 mL, 0.24 mmol) was added to the reaction drop-wise. The reaction was allowed to warm up to ambient temperature and stirred for one hour, then at 80° C. for 16 hours. Reaction did not reach completion before workup. The reaction mixture was diluted with EtOAc (15 mL), washed with water and brine (5 mL each), concentrated, and purified by reverse-phase column chromatography, eluting with 5 to 60% acetonitrile/water to yield the final product as a light yellowish solid (3 mg, 9% yield). MS (apci) m/z=422.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.079 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | pyrimidine-2-carboxylic acid | 0.095 mmol, 12 mg | N1=C(N=CC=C1)C(=O)O | C5H4N2O2
reactant | HATU | 0.095 mmol, 36 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.24 mmol, 0.041 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMSO | A few drops | CS(=O)C | C2H6OS
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)pyrimidine-2-carboxamide | 3 mg, 9% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)C2=NC=CC=N2 | C21H17F2N7O
